US07384967B2
2-[([[(2-Phenoxyanilino)sulfonyl]amino]carbonyl)amino]thiazole
To a solution of chlorosulfonyl isocyanate (0.22 ml, 2.5 mmol) in tetrahydrofuran (25 ml) were added 2-phenoxyaniline (0.37 g, 2.0 mmol) and DIEA (0.89 ml, 5.0 mmol) at −78° C. The solution was stirred and slowly allowed to warmed up to 0° C. To this reaction mixture, was added 2-amino thiazole (0.20 g, 2.0 mmol) and continued stirring at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the crude product was purified by column chromatography (ethylacetate:hexanes, from 50:50 to 90:10 as eluent system) to afford the title compound (0.52 g, 66%).

reactant | chlorosulfonyl isocyanate | 2.5 mmol, 0.22 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-phenoxyaniline | 2.0 mmol, 0.37 g | O(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C12H11NO
reactant | DIEA | 5.0 mmol, 0.89 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino thiazole | 2.0 mmol, 0.20 g | NC=1SC=CN1 | C3H4N2S
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-[([[(2-Phenoxyanilino)sulfonyl]amino]carbonyl)amino]thiazole | 0.52 g, 66% | O(C1=CC=CC=C1)C1=C(NS(=O)(=O)NC(=O)NC=2SC=CN2)C=CC=C1 | C16H14N4O4S2
